US07723378B2
To the appropriate phenols (50 μmol, 2 eq.) and K2CO3 (10.5 mg, 75 μmol) a solution of 2-bromo-1-(3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-ethanone (7.5 mg, 25 μmol) in acetone (0.7 mL) is added. The suspension is stirred at rt for 18 h before it is filtered. The solvent of the filtrate is evaporated and the crude product is purified by prep. HPLC (Symmetry C18 5 μm, 19×50 mm, 20-95% acetonitrile in water containing 0.5% formic acid) to give the desired 2-phenoxy-1-(3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-ethanone.

reactant | K2CO3 | 75 μmol, 10.5 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromo-1-(3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-ethanone | 25 μmol, 7.5 mg | BrCC(=O)C=1SC(=C2C1CCC(C2)(C)C)C | C13H17BrOS
solvent | acetone | 0.7 mL | CC(=O)C | C3H6O
product | 2-phenoxy-1-(3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-ethanone | O(C1=CC=CC=C1)CC(=O)C=1SC(=C2C1CCC(C2)(C)C)C | C19H22O2S
